US04284641
Bromobutane (27.4 ml; 0.255 mole) was added dropwise to a stirred solution of imidazole (13.6 g; 0.2 mole) in a mixture of methanol (30 ml) and sodium hydroxide solution (30 ml; 10M) maintained at 30° to 40° C. When the addition was complete the reaction mixture was stirred and refluxed for 12 hours. The solvent was evaporated, the residue extracted with chloroform (2×50 ml) and the extracts dried over magnesium sulphate and concentrated under reduced pressure. The resulting yellow oil was purified to give 1-n-butylimidazole as a colourless oil, b.p. 122°-123° C./20 mmHg.

reactant | Bromobutane | 0.255 mole, 27.4 ml | BrCCCC | C4H9Br
reactant | imidazole | 0.2 mole, 13.6 g | N1C=NC=C1 | C3H4N2
solvent | methanol | 30 ml | CO | CH4O
solvent | sodium hydroxide | 10M, 30 ml | [OH-].[Na+]
product | 1-n-butylimidazole | C(CCC)N1C=NC=C1 | C7H12N2
